US06576766B1
(e) 3-(3-Diethoxyphosphoryl-4-bromomethyl-phenyl)propionic Acid Methyl Ester
3-(3-Diethoxyphosphoryl-4-hydroxymethyl-phenyl)propionic acid methyl ester (330 mg, 1 mmol), PPh3 (289 mg, 1.1 mmol) and CBr4 (365 mg, 1.1 mmol) were dissolved in 5 mL dry THF. The reaction mixture was stirred at 25° C. for 1 hr. The mixture turned cloudy. Solid was filtered and the filtrate was concentrated. The residue was further purified by flash column chromatography on silica gel (EtOAC/hexane 3/1, Rf=0.40). Pure product was obtained as an oil 150 mg (yield 38%).

reactant | 3-(3-Diethoxyphosphoryl-4-hydroxymethyl-phenyl)propionic acid methyl ester | 1 mmol, 330 mg | COC(CCC1=CC(=C(C=C1)CO)P(=O)(OCC)OCC)=O | C15H23O6P
reactant | PPh3 | 1.1 mmol, 289 mg | C1=CC=C(C=C1)P(C2=CC=CC=C2)C3=CC=CC=C3 | C18H15P
reactant | CBr4 | 1.1 mmol, 365 mg | C(Br)(Br)(Br)Br | CBr4
solvent | THF | 5 mL | C1CCOC1 | C4H8O
product | 3-(3-Diethoxyphosphoryl-4-bromomethyl-phenyl)propionic Acid Methyl Ester | 150 mg, yield 38% | COC(CCC1=CC(=C(C=C1)CBr)P(=O)(OCC)OCC)=O | C15H22BrO5P
